US07141583B2
4-(2-Fluoro-4-aminophenyl)-3,6-dihydro-2H-thiopyran
4-Hydroxy-4-(2-fluoro-4-aminophenyl)tetrahydrothiopyran (11.35 g, 50 mM) and butylated hydroxytoluene (50 mg) as antioxidant were suspended in a mixture of concentrated hydrochloric acid (37%, 200 ml) and water (50 ml), and stirred at 80° under nitrogen for 18 hours. Glacial acetic acid (150 ml) was added, and reaction continued at 80° for a further 5 hours. After cooling, the reaction was made basic by the cautious addition of concentrated ammonia and ice. The mixture was extracted with diethyl ether (400 ml), the extract washed with water (100 ml), brine (100 ml), dried (magnesium sulfate), filtered and evaporated to give the title product (10 g) as a dark oil.

reactant | 4-Hydroxy-4-(2-fluoro-4-aminophenyl)tetrahydrothiopyran | 50 mM, 11.35 g | OC1(CCSCC1)C1=C(C=C(C=C1)N)F | C11H14FNOS
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
reactant | ammonia | N | H3N
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 4-(2-Fluoro-4-aminophenyl)-3,6-dihydro-2H-thiopyran | 10 g | FC1=C(C=CC(=C1)N)C=1CCSCC1 | C11H12FNS
